US08003785B2
To the mixture of 8.8 g (0.74 mole) benzotriazole and 10 g (0.74 mole) of phenylpropylamine in 200 mL of dichloromethane was added dropwise 6.0 mL (0.74 mole) of 37% aqueous formaldehyde. The reaction mixture was stirred at room temperature overnight. The solution was dried over calcium chloride, filtered and concentrated under pressure. Hexane was added under ice-cooled bath and the resulting solid was collected by filtration and washed with hexane dried to give 21.0 g of benzotriazol-1-ylmethyl-(3-phenyl-propyl)-amine as an oil.

reactant | benzotriazole | 0.74 mole, 8.8 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | phenylpropylamine | 0.74 mole, 10 g | C1(=CC=CC=C1)CCCN | C9H13N
reactant | formaldehyde | 0.74 mole, 6.0 mL | C=O | CH2O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | benzotriazol-1-ylmethyl-(3-phenyl-propyl)-amine | 21.0 g | N1(N=NC2=C1C=CC=C2)CNCCCC2=CC=CC=C2 | C16H18N4
